US08710043B2
Step 3. (S)—N-((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-1-hydroxy-4-methyl-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxamide
To a solution of (S)-methyl 2-((5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-nitrophenyl)(methyl)amino)-2-oxoacetate (0.500 g, 0.880 mmol) in MeOH (3 mL, Aldrich), was added palladium, 10 wt. % (dry basis) on activative carbon, wet, degussa type (0.047 g, 0.440 mmol, Aldrich). The resulting mixture was stirred at room temperature under hydrogen (balloon) for 4 h. The mixture was filtered through celite and the celite was washed with MeOH (2×10 mL). The combined filtrates were concentrated in vacuo. Dioxane (3.00 mL, Aldrich) and water (1 mL) were added, followed by potassium phosphate (0.560 g, 2.64 mmol, Strem Chemical). The mixture was heated at 90° C. for 18 h. The mixture was then cooled to room temperature and filtered. The solid was washed with water (2×30 mL) and dried in vacuo to afford the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.37 (d, J=7.8 Hz, 1H), 8.47 (d, J=4.5 Hz, 1H), 7.93 (br. s., 1H), 7.74-7.84 (m, 3H), 7.55-7.67 (m, 2H), 7.50 (dt, J=8.5, 4.3 Hz, 1H), 7.40 (d, J=8.4 Hz, 1H), 6.78 (d, J=7.8 Hz, 1H), 3.52-3.66 (m, 3H). MS (ESI, positive ion) m/z: 523 (M+H).

reactant | (S)-methyl 2-((5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-nitrophenyl)(methyl)amino)-2-oxoacetate | 0.880 mmol, 0.500 g | FC=1C=C(C=CC1OC(F)(F)F)[C@@H](C1=NC=CC=C1F)NC(=O)C=1C=CC(=C(C1)N(C(C(=O)OC)=O)C)[N+](=O)[O-] | C24H17F5N4O7
reactant | potassium phosphate | 2.64 mmol, 0.560 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | MeOH | 3 mL | CO | CH4O
product | (S)—N-((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-1-hydroxy-4-methyl-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxamide | FC=1C=C(C=CC1OC(F)(F)F)[C@H](NC(=O)C=1C=C2N(C(C(N(C2=CC1)O)=O)=O)C)C1=NC=CC=C1F | C23H15F5N4O5
